Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Cardiac arrest, clotted dialysis fistula
 
Major Surgical or Invasive Procedure:
Thrombectomy ___ 
Intraosseous line, central line, arterial line ___
Endotracheal intubation ___

 
History of Present Illness:
Mr. ___ is an ___ man with complex medical history 
including ESRD ___ DM, HTN, obstruction) on HD 
(___) 
since ___, atrial fibrillation on warfarin, CHF, PVD, and 
history of autonomic dysfunction, who presented to  ED ___ for 
clotted dialysis fistula.

Patient underwent thrombectomy on ___. At the end of the 
procedure, the patient developed nausea and progressive 
bradycardia. He initially had a junctional rhythm and 
hypotension. The patient was given atropine, dopamine, and 
norepinephrine drip with a transient response. Transcutaneous 
pacing was initiated with stabilization of heart rate in 70 and 
systolic blood pressure in ___. Patient was also intubated and 
transferred to the MICU. 

 
Past Medical History:
ESRD on HD ___, since ___, HTN/T2DM/Obstructive 
Nephropathy)
CHF ___: LVEF= ___ with chronic transudative pleural 
effusions)
AFib on warfarin, propanolol
HTN
NIDDM - controlled with weight loss
Neurogenic Bladder
Gout
PVD
Hypothyroidism
Cricopharyngeal dysphagia ___ neck fracture
Sleep Apnea on CPAP
Anemia of chronic disease ___ renal dysfunction
Autonomic dysfunction - previously on midodrine and 
fludrocortisone
Chronic osteomyelitis ___ diagnosed by bone fragment biospy 
now s/p vanco/ceftaz
I&D buttock hematoma (93)
Left arm radiocephalic AV fistula creation (___)
Superficialization of left arm AV fistula (___)
Repair of left arm arteriovenous fistula aneurysm (___)
Repair of LUE AVF aneurysm (___)
PleurX pleural drainage tube (___)
HCAP (___)
Left calcaneal osteomyelitis ___ diagnosed by MRI) to 
receive 6 week course vancomycin/ceftazidime.
Likely transient bacteremia in setting of dental procedure 
(___) 
 
Social History:
___
Family History:
Per OMR, as unable to obtain from patient at time of MICU 
admission:
His grandparents and father had hypertension and diabetes. No 
family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ON ADMISSION:
==========================================
VS: 90.7 117 79/56 18 CMV 100% FiO2 PEEP 5
GENERAL: Intubated and sedated. Significant bright red blood 
from the ETT.
CV: Tachycardic.
RESP: Ventilated breath sounds.

ON DISCHARGE:
=========================================
Death confirmed by absent pupil and corneal reflexes, absent 
carotid pulse, and absent heart sounds. No response to noxious 
stimuli, no spontaneous movements, skin warm.
 
Pertinent Results:
IN ED:
=====================================
___ 04:30PM BLOOD WBC-11.1* RBC-2.48* Hgb-7.9* Hct-25.5* 
MCV-103* MCH-31.9 MCHC-31.0* RDW-15.3 RDWSD-55.9* Plt ___
___ 06:34PM BLOOD ___ PTT-43.6* ___
___ 04:30PM BLOOD Glucose-103* UreaN-146* Creat-12.7*# 
Na-139 K-5.3* Cl-99 HCO3-16* AnGap-29*

ON ADMISSION TO MICU:
====================================
___ 01:13PM BLOOD WBC-16.1* RBC-2.14* Hgb-7.0* Hct-22.4* 
MCV-105* MCH-32.7* MCHC-31.3* RDW-15.2 RDWSD-56.4* Plt ___
___ 01:13PM BLOOD ___
___ 01:13PM BLOOD Glucose-510* UreaN-148* Creat-12.5* 
Na-133 K-5.1 Cl-94* HCO3-13* AnGap-31*
___ 01:13PM BLOOD ALT-158* AST-182* AlkPhos-143* 
TotBili-0.6
___ 01:13PM BLOOD Calcium-10.1 Phos-9.2*# Mg-2.4
___ 01:21PM BLOOD Type-ART pO2-147* pCO2-49* pH-7.04* 
calTCO2-14* Base XS--17
___ 01:21PM BLOOD Glucose-447* Lactate-6.6* K-5.1

STUDIES:
=====================================
CXR (___)
Moderate cardiomegaly with moderate right-sided and small left 
pleural 
effusions. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with history of ESRD on HD, 
CHF, atrial fibrillation, and peripheral vascular disease who 
presented to the ED with clotted AV fistula. 

# Bradycardia with subsequent cardiac arrest: 
The patient underwent thrombectomy on morning of ___. At 
the end of the procedure, the patient developed nausea and 
progressive bradycardia. He initially had a junctional rhythm 
and hypotension. The patient was given atropine, dopamine, and 
norepinephrine drip with transient response. Transcutaneous 
pacing was initiated with stabilization of heart rate in 70 and 
systolic blood pressure in ___. The patient was intubated and 
transferred to the MICU. 

Shortly after arrival, the patient developed progressive 
hypotension and cardiac arrest. He was found to be in PEA. The 
patient received multiple rounds of CPR, epinephrine, 
norepinephrine, calcium, sodium bicarbonate, insulin, and 
amiodarone. A left intraosseous, femoral central venous, and 
femoral arterial line were placed. Bedside echo during arrest 
demosntrated LVEF 40-50% without clear effusion. 

The patient developed ventricular tachycardia and was shocked 
with return to atrial fibrillation with aberrancy with return of 
spontaneous circulation. By the end of the 45 minute code, the 
patient was on maximal doses of 4 vasopressor agents with 
persistent hypotension. Patient's wife was notified of events 
along with patient's PCP ___ Dr. ___ were 
at the bedside. At that time, patient had persistent acidosis on 
four vasopressors. There was no evidence of hyperkalemia and 
chest x-ray was confirmed endotracheal placement and absence of 
pneumothorax.

Patient's wife arrived at bedside shortly after arrest in the 
ICU. Given his likely poor neurologic outcome, persistent shock, 
and ongoing bleeding from endotracheal tube, the decision was 
made along with the patient's wife and PCP to not escalate care 
and that CPR would be medically futile. It was felt his overall 
presentation to be persistent cardiovascular collapse after a 
profound vagal response. 

The patient died on ___ at 14:08. The patient's wife and 
primary care physician were at the bedside. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol 50 mg PO EVERY OTHER DAY 
2. CefTAZidime 2 g IV POST HD (___) 
3. CefTAZidime 3 g IV POST HD (SA) 
4. Cinacalcet 30 mg PO 3X/WEEK (___) 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Midodrine 10 mg PO QAM 
7. Midodrine 7.5 mg PO QPM 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
11. Vancomycin 1000 mg IV HD PROTOCOL 
12. Warfarin 3 mg PO DAILY 
13. B complex with C#20-folic acid 1 mg oral daily 
14. Finasteride 5 mg PO DAILY 
15. Propranolol LA 120 mg PO DAILY 

 
Discharge Medications:
Patient expired 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient expired 
 
Discharge Condition:
Patient expired 
 
Discharge Instructions:
Patient expired 
 
Followup Instructions:
___